US08580841B2
Step B: Preparation of 5-(Chloromethyl)-2-isopropoxybenzonitrile.
5-(Hydroxymethyl)-2-isopropoxybenzonitrile (5.96 g, 31.2 mmol) was dissolved in toluene (90 mL) and thionyl chloride (13.65 mL, 187 mmol) was added. The reaction mixture was warmed to 75° C. and stirred for 20 min. The reaction mixture was diluted with hexanes and washed with water and saturated aqueous sodium bicarbonate. The hexane solution was dried over sodium sulfate, filtered and concentrated under reduced pressure to give the title compound (5.6 g). 1H NMR (400 MHz, CDCl3) δ ppm 1.41 (d, J=6.1 Hz, 6H), 4.52 (s, 2H), 4.66 (septet, J=6.1 Hz, 1H), 6.95 (d, J=8.6 Hz, 1H), 7.51 (dd, J=8.7, 2.4 Hz, 1H), 7.57 (d, J=2.3 Hz, 1H).

reactant | 5-(Hydroxymethyl)-2-isopropoxybenzonitrile | 31.2 mmol, 5.96 g | OCC=1C=CC(=C(C#N)C1)OC(C)C | C11H13NO2
reactant | thionyl chloride | 187 mmol, 13.65 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 90 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(Chloromethyl)-2-isopropoxybenzonitrile | 5.6 g | ClCC=1C=CC(=C(C#N)C1)OC(C)C | C11H12ClNO
